US08729263B2
Synthesis of 6-hydroxy-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2,3-dihydro-1H-inden-1-one oxime hydrochloride salt
To a microwave vial was added 6-hydroxy-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2,3-dihydro-1H-inden-1-one (Example 35-1,150 mg, 0.38 mmol), hydroxylamine hydrochloride (264 mg, 3.80 mmol), pyridine (0.25 mL, 3.04 mmol) and MeOH (1.0 mL). The resulting suspension was stirred at RT for 1.5 hours. The reaction mixture was acidified with excess acetic acid and loaded onto an SCX column. The crude material was washed with methanol then eluted with 2 N ammonia in methanol. The product-containing fractions were concentrated to afford the title compound. MS [M+H+]=410.2, LCMS Rt=0.48 min [Method Q]; 1H NMR (400 MHz, DMSO-d6) ppm 10.94-11.13 (m, 1H), 8.91-9.21 (m, 1H), 8.29 (d, J=10.04 Hz, 1H), 8.09-8.21 (m, 1H), 7.83 (s, 1H), 7.52-7.73 (m, 1H), 7.08 (s, 1H), 4.83-5.31 (m, 1H), 2.91-3.04 (m, 5H), 2.74-2.85 (m, 2H), 1.91-2.09 (m, 2H), 1.79 (d, J=10.79 Hz, 2H), 1.53 (s, 6H), 1.47 (s, 6H).

reactant | 6-hydroxy-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2,3-dihydro-1H-inden-1-one | 0.38 mmol, 35-1,150 mg | OC1=C(C=C2CCC(C2=C1)=O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C23H30N4O2
reactant | hydroxylamine hydrochloride | 3.80 mmol, 264 mg | Cl.NO
reactant | pyridine | 3.04 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 1.0 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-hydroxy-5-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-2,3-dihydro-1H-inden-1-one oxime hydrochloride salt | Cl.OC1=C(C=C2CCC(C2=C1)=NO)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | InChI=1S/C23H31N5O2.ClH/c1-22(2)12-15(13-23(3,4)27-22)28(5)21-9-8-18(24-25-21)17-10-14-6-7-19(26-30)16(14)11-20(17)29;/h8-11,15,27,29-30H,6-7,12-13H2,1-5H3;1H
